* C:\Users\edoar\Desktop\flyback\Flyback_clamp.asc
Co N003 0 10µ
Ro N003 0 50
V§Clock N006 0 PULSE(0 10 0 1u 1u 5u 10.2u)
Vi N001 0 12
D N002 N003 MBRS1100
L1 N005 N001 100µ
L2 N002 0 900µ
M1 N005 N006 0 0 IRF510
D1 NC_01 N004 MBRS1100
Cc N001 N004 3.3µ
Rc N001 N004 330
.model D D
.lib C:\Users\edoar\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\edoar\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 2ms
K1 L1  L2 0.99
.backanno
.end
